US07049333B2
f) 4-Chloro-3-thienyl isothiocyanate
1.46 g of thiocarbonyldiimidazole are added to a solution of 1.1 g of 3-amino-4-chlorothiophene in 20 ml of anhydrous THF, and the mixture is stirred at room temperature for one hour. The solid is distilled off under reduced pressure, the residue is dissolved in ethyl acetate, the organic phase is treated twice with water in a separating funnel and then dried, and the solvent is again distilled off under reduced pressure. This gives 4-chloro-3-thienyl isothiocyanate as a dark oil which is then reacted further without further purification steps.

reactant | thiocarbonyldiimidazole | 1.46 g | C(=S)(N1C=NC=C1)N1C=NC=C1 | C7H6N4S
reactant | 3-amino-4-chlorothiophene | 1.1 g | NC1=CSC=C1Cl | C4H4ClNS
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 4-Chloro-3-thienyl isothiocyanate | ClC=1C(=CSC1)N=C=S | C5H2ClNS2
